US04333934
A solution of 0.9 g of 2-amino-quinoxaline, 1.25 g of ethyl bromopyruvate and 25 ml of dimethoxyethane was stirred overnight at room temperature and was filtered to obtain 1.58 g of 2-amino-carbethoxycarbonylmethyl-quinoxalinium bromide in the form of a pale yellow crystalline solid.

reactant | 2-amino-quinoxaline | 0.9 g | NC1=NC2=CC=CC=C2N=C1 | C8H7N3
reactant | ethyl bromopyruvate | 1.25 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
product | 2-amino-carbethoxycarbonylmethyl-quinoxalinium bromide | 1.58 g | [Br-].NC1=[N+](C2=CC=CC=C2N=C1)CC(=O)C(=O)OCC | InChI=1S/C13H13N3O3.BrH/c1-2-19-13(18)11(17)8-16-10-6-4-3-5-9(10)15-7-12(16)14;/h3-7,14H,2,8H2,1H3;1H
